US07781478B2
[4-(3-cyano-6-difluoromethoxy-1-ethyl-1H-indol-2-yl)-phenyl]-carbamic acid methyl ester (Compound 1130)
A solution of 2-(4-aminophenyl)-6-difluoromethoxy-1-ethyl-1H-indole-3-carbonitrile (200 mg, 0.611 mmol) and methyl chloroformate (95 μL, 1.23 mmol) in ethyl acetate (2 mL) is treated with 2 M aqueous potassium carbonate solution (0.370 mL, 0.74 mmol), and the resulting mixture is stirred vigorously overnight. Saturated brine solution (1 mL) is added, and the mixture is stirred for 10 minutes. The organic layer is removed, dried over anhydrous magnesium sulfate, filtered and evaporated. The resulting solid is triturated with 1/1 ether-hexane, collected by filtration and dried under vacuum to afford the title product as a white solid.

reactant | 2-(4-aminophenyl)-6-difluoromethoxy-1-ethyl-1H-indole-3-carbonitrile | 0.611 mmol, 200 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC(F)F)CC | C18H15F2N3O
reactant | methyl chloroformate | 1.23 mmol, 95 μL | ClC(=O)OC | C2H3ClO2
reactant | potassium carbonate | 0.74 mmol, 2 M, 0.370 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 1 mL | [Cl-].[Na+].O
product | [4-(3-cyano-6-difluoromethoxy-1-ethyl-1H-indol-2-yl)-phenyl]-carbamic acid methyl ester | COC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC(F)F)CC)=O | C20H17F2N3O3
